US06297258B1
1-(Dimethylaminomethyleneamino)-3-chlorobenzene
A mixture of 3-chloroaniline (63.8 g, 0.50 mol) and dimethylformamide dimethyl acetal (106 ml, 0.75 mol) was heated at 100° for 2 h and evaporated at 60° at 0.5 mm Hg to give 91.8 g amber oil; ms 183.0 (M+H)+.

reactant | 3-chloroaniline | 0.50 mol, 63.8 g | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | dimethylformamide dimethyl acetal | 0.75 mol, 106 ml | COC(N(C)C)OC | C5H13NO2
product | 1-(Dimethylaminomethyleneamino)-3-chlorobenzene | 91.8 g | CN(C)C=NC1=CC(=CC=C1)Cl | C9H11ClN2
